US04595532
N-[Di-(ethoxycarbonyl)methyl]-3-benzyloxycarbonylamino-2-azetidinone
The Cbz protected serylaminomalonate (0.5 g, 1.2 mmoles) and 0.33 g (1.2 mmoles) of TPP in 30 mL of THF were treated with 0.2 mL (1.29 mmoles) of DEAD for 1 hour at R.T. The mixture was chromatographed as above, yielding 0.29 g (63% mass recovery) of the mixture of the title compound and 1-Cbz-2-carboxyaziridine diethoxycarbonylmethylamide. 105 mg of the mixture was prep TLC'd (silica, 2 mm, ether/hexanes, 4 times). The title compound eluted first, and after evaporation, 64.1 mg (0.18 mmoles, 15%) was isolated as an oil. IR (neat) 1770, 1750, 1715. NMR 1.13-1.33 (6H, m), 3.56-3.7 (2H, m), 4.0-4.4 (4H, m), 4.6-4.8 (1H, m), 5.1 (3H, 2 overlapping singlets), 5.8-6 (1H, m), 7.4 (5H, s). The aziridine side product: 39.5 mg (0.1 mmoles, 8.7%) IR (neat) 1760, 1730. NMR 1.16-1.33 (6H, t), 2.4-2.6 (2H, dd), 3.06-3.16 (1H, dd), 4.1-4.4 (4H, dq), 4.5-4.8 (1H, b), 5.06-5.1 (1H, d), 5.13 (2H, s), 7.4 (5H, s).

reactant | serylaminomalonate | 1.2 mmoles, 0.5 g | N[C@@H](CO)C(=O)NC(C(=O)[O-])C(=O)[O-]
reactant | DEAD | 1.29 mmoles, 0.2 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-Cbz-2-carboxyaziridine diethoxycarbonylmethylamide | C(C)OC(=O)C(C(=O)OCC)[NH-].C(=O)(OCC1=CC=CC=C1)N1C(C1)C(=O)O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-[Di-(ethoxycarbonyl)methyl]-3-benzyloxycarbonylamino-2-azetidinone | C(C)OC(=O)C(N1C(C(C1)NC(=O)OCC1=CC=CC=C1)=O)C(=O)OCC | C18H22N2O7
